US03946018
1,4-Dihydro-4-isopropyl-1-(4'-chloroacetylaminophenyl)-3(2H)-isoquinolinone
10.0 g. (0.0357 moles) of 1-(4'-aminophenyl)-1,4-dihydro-4-isopropyl-3(2H)-isoquinolinone are reacted, in 150 ml. of glacial acid, with 5.07 g. (0.045 moles) of chloroacetyl chloride in the presence of 4.55 g. (0.045 moles) of triethylamine. The reaction conditions are the same as given in Example 1. The crude product is recrystallized from butanol to yield 9.95 g. of the title compound; m.p.: 269°-270°C.

reactant | 1-(4'-aminophenyl)-1,4-dihydro-4-isopropyl-3(2H)-isoquinolinone | 0.0357 moles | NC1=CC=C(C=C1)C1NC(C(C2=CC=CC=C12)C(C)C)=O | C18H20N2O
reactant | chloroacetyl chloride | 0.045 moles | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.045 moles | C(C)N(CC)CC | C6H15N
product | 1,4-Dihydro-4-isopropyl-1-(4'-chloroacetylaminophenyl)-3(2H)-isoquinolinone | C(C)(C)C1C(NC(C2=CC=CC=C12)C1=CC=C(C=C1)NC(CCl)=O)=O | C20H21ClN2O2
